US05145842
A solution of 60 g of 4-nitrogramine [J. B. Hester, J. Org. Chem., 29, 1158 (1964)] and 54 g of ethyl nitroacetate in 1.2 L of chlorobenzene was heated at 100° C. for 1.5 h. After cooling the mixture was filtered, washed with cold methylene chloride and dried in vacuo to afford 58.9 g of ethyl 3-(4-nitro-2-indolyl)-2-nitropropionate as a yellow solid: mp 159°-160.5° C. Another 11 g may be recovered from the filtrate by dilution with hexane, preparative liquid chromatography [silica; methylene chloride/ethyl acetate (90:10)] and recrystalization from methanol. The structure was confirmed by NMR.

reactant | 4-nitrogramine | 60 g | CN(C)CC1=CNC2=C1C(=CC=C2)[N+](=O)[O-] | C11H13N3O2
reactant | ethyl nitroacetate | 54 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | chlorobenzene | 1.2 L | ClC1=CC=CC=C1 | C6H5Cl
product | ethyl 3-(4-nitro-2-indolyl)-2-nitropropionate | 58.9 g | [N+](=O)([O-])C1=C2C=C(NC2=CC=C1)CC(C(=O)OCC)[N+](=O)[O-] | C13H13N3O6
